US04400509
Trimethylsilyl 7-amino-3-methyl-3-cephem-4-carboxylate
528 (3.28 mmoles) of hexamethyldisilazane were added to a refluxing suspension of 1.08 g (5.0 mmoles) of 7-amino-3-methyl-3-cephem-4-carboxylic acid, 10 mg (0.05 mmole) of saccharin and 20 ml of dichloromethyane and the clear solution obtained after refluxing for one hour was evaporated to dryness. The residue was dried at room temperature under vacuum and 1.48 g of product was analyzed by quantitative NMR analysis using an internal standard technique to ascertain that the yield of trimethylsilyl 7-amino-3-methyl-3-cephem-4-carboxylate, calculated on the trimethylsilyl ester peak, was 93%. Only a trace amount of trimethylsilyl 3-methyl-7-trimethylsilylamino-3-cephem-4-carboxylate could be detected in the NMR spectrum.

reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 7-amino-3-methyl-3-cephem-4-carboxylic acid | 5.0 mmoles, 1.08 g | NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C8H10N2O3S
reactant | saccharin | 0.05 mmole, 10 mg | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
product | Trimethylsilyl 7-amino-3-methyl-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)C)C(=O)O[Si](C)(C)C)C1=O | C11H18N2O3SSi
